US05502054
In a flask under a nitrogen atmosphere were placed 1.7 g (0.075 mole) metallic sodium and 75 mL of absolute ethanol. When all of the sodium had reacted, the remaining ethanol was evaporated, leaving solid sodium ethoxide. To this solid were added successively 100 mL of dry tetrahydrofuran, 11.0 g (0.075 mole) of diethyl oxalate, and 12.95 g (0.0517 mole) of ethyl 5-methyl-5-phenyl-5-silahexanoate. This mixture was heated at reflux for one hour after which it was cooled to ambient temperature before being poured into 240 mL of 0.5N hydrochloric acid. This mixture was extracted with 200 mL of diethyl ether. The extract was evaporated under reduced pressure, leaving 16.7 g of diethyl 2-oxo-3-(3-methyl-3-phenyl-3-silabutyl)succinate as an oil. This reaction was repeated to provide additional product for subsequent steps in this synthesis.

reactant | diethyl oxalate | 0.075 mole, 11.0 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethyl 5-methyl-5-phenyl-5-silahexanoate | 0.0517 mole, 12.95 g | C[Si](CCCC(=O)OCC)(C)C1=CC=CC=C1 | C14H22O2Si
reactant | hydrochloric acid | 0.5N, 240 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | diethyl 2-oxo-3-(3-methyl-3-phenyl-3-silabutyl)succinate | 16.7 g | O=C(C(=O)OCC)C(C(=O)OCC)CC[Si](C)(C1=CC=CC=C1)C | C18H26O5Si
